US04849419
Diphenyl-(2-methylprop-2-yl)silyl 4-hydroxybenzoate
To a solution of 20 g of 4-hydroxybenzoic acid and 10 g of imidazole in 100 ml of dry dimethylformamide at 0° C. was added 40 g of t-butylchlorodiphenylsilane. The mixture was stirred at 0° C. for 30 minutes, then at 20° C. for 18 hours, and then partitioned between diethyl ether and water. The organic layer was washed with water, with 10% aqueous potassium hydrogen carbonate, with water and with brine, and then dried over magnesium sulphate. Evaporation in vacuo of the solvent afforded 47.5 g of the title compound as a crystalline white powder.

reactant | 4-hydroxybenzoic acid | 20 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodiphenylsilane | 40 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Diphenyl-(2-methylprop-2-yl)silyl 4-hydroxybenzoate | 47.5 g | OC1=CC=C(C(=O)O[Si](C(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C23H24O3Si
